US05840732
iii) Synthesis of 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 250 mg (0.55 mmol) of 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione in 5 ml of methanol, 0.05 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 290 mg (100%, white solid) of the desired product.

reactant | 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione | 0.55 mmol, 250 mg | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C(=CN2)C(C(F)(F)F)=O)=O | C20H20F3N3O4S
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5-butylidene-3-[4-(3-trifluoroacetylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C(=CN2)C(C(F)(F)F)=O)=O | InChI=1S/C20H20F3N3O4S.ClH/c1-2-3-8-15-18(28)26(19(29)31-15)9-4-5-11-30-14-7-6-10-25-13(12-24-17(14)25)16(27)20(21,22)23;/h6-8,10,12H,2-5,9,11H2,1H3;1H
